US04216319
A solution of ethyl 3,4,5-trimethoxybenzylcyanoacetate (14.7 g) in triethyl orthoformate (100 ml) has heated at reflux for 18 hours using a steam-jacketed column for continuous removal of ethanol. The solution was cooled, and most of the excess orthoformate was removed in vacuo. The crystals obtained were washed with ether and dried to yield colourless crystals of α-carbethoxy-of diethoxymethyl-β-(3,4,5-trimethoxy phenyl)propionitrile (16.3 g, 82%), m.p. 91°; nmr (CDCl3) δ1.13, 1.20, and 1.32 (triplets, 9, CH3CH2O-), 3.15 (s, 2, Ar-CH2 -C), 3.4-4.0 (m, 4, m, 4, CH3CH2 -O), 3.85 (s, 9, -C6H2 -(OCH3)3), 4.13 (q, 2, CH3CH2 -OCO), 4.80 (s, 1, -CH (OEt)2), and 6.55 (s, 2, aromatic H).Anal. Calcd. for C20H29NO7 : C, 60.74; H, 7.39; N, 3.54. Found: C, 60.56; H, 7.33; N, 3.64.

reactant | ethyl 3,4,5-trimethoxybenzylcyanoacetate | 14.7 g | COC=1C=C(CC(C(=O)OCC)C#N)C=C(C1OC)OC | C15H19NO5
reactant | triethyl orthoformate | 100 ml | C(OCC)(OCC)OCC | C7H16O3
product | diethoxymethyl-β-(3,4,5-trimethoxy phenyl)propionitrile | 16.3 g, 82% | C(C)OC(OCC)C(C#N)CC1=CC(=C(C(=C1)OC)OC)OC | C17H25NO5
